US07074800B1
Using an analogous procedure to that described in Example 32, 7-benzyloxy-4-chloro-6-methoxyquinazoline (1 g, 3.33 mmol), (prepared as described for the starting material in Example 1), was reacted with 5-hydroxy-2-methylindole (0.59 g, 4 mmol) to give 7-benzyloxy-6-methoxy-4-(2-methylindol-5-yloxy)quinazoline (1.25 g, 91%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 3.33 mmol, 1 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 5-hydroxy-2-methylindole | 4 mmol, 0.59 g | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
product | 7-benzyloxy-6-methoxy-4-(2-methylindol-5-yloxy)quinazoline | 1.25 g, 91% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C)OC | C25H21N3O3
